US08247401B2
Step A: tert-Butyl 3-bromo-5-[(R/S)-2,2,2-trifluoro-1-hydroxyethyl]benzoate
To a solution of tert-butyl 3-bromo-5-formylbenzoate (Merck patent case No. 22407 PV; 5.7 g, 20.0 mmol) in THF (133 mL) at 0° C. were added trimethyl(trifluoromethyl)silane (4.44 mL, 30.0 mmol) and activated 4 Å molecular sieves. Tetrabutylammonium fluoride (1.0 M in THF; 6.0 mL, 6.0 mmol) was added dropwise. The reaction mixture was warmed to ambient temperature. After 3 h, aqueous 1N HCl (25 mL) and tert-butyl methyl ether (100 mL) were added. The organic layer was separated, washed with brine, dried over sodium sulfate, filtered and concentrated.

reactant | tert-butyl 3-bromo-5-formylbenzoate | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C=O | C12H13BrO3
reactant | trimethyl(trifluoromethyl)silane | 30.0 mmol, 4.44 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | Tetrabutylammonium fluoride | 6.0 mmol, 1.0 M, 6.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 1N, 25 mL | Cl | ClH
solvent | THF | 133 mL | C1CCOC1 | C4H8O
solvent | tert-butyl methyl ether | 100 mL | COC(C)(C)C | C5H12O
product | tert-Butyl 3-bromo-5-[(R/S)-2,2,2-trifluoro-1-hydroxyethyl]benzoate | BrC=1C=C(C(=O)OC(C)(C)C)C=C(C1)C(C(F)(F)F)O | C13H14BrF3O3
